US06001831
Am. Chem. Soc. (1933), pages 2113-2116 describes the reaction of N-ethylanthranilic acid with sodium cyanate and acetic acid and subsequent addition of sodium hydroxide to give 1,2,3,4-tetrahydro-1-ethyl-2,4-dioxoquinazoline. However, disadvantages of this process are the low space yield, because of the dilute reaction solution, and the very high excess of sodium hydroxide.

reactant | N-ethylanthranilic acid | C(C)NC=1C(C(=O)O)=CC=CC1 | C9H11NO2
reactant | sodium cyanate | [O-]C#N.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,2,3,4-tetrahydro-1-ethyl-2,4-dioxoquinazoline | C(C)N1C(NC(C2=CC=CC=C12)=O)=O | C10H10N2O2
